US07589206B2
Prepared in a similar manner to Example 4(d) from 1-(7-chloro-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-4-yl)-1-morpholin-4-yl-methanone (100 mg) and 3-bromoaniline (74 ul) to give 1-[7-(3-bromo-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone (93 mg).

reactant | 1-(7-chloro-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-4-yl)-1-morpholin-4-yl-methanone | 100 mg | ClC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | C14H16ClN3O2
reactant | 3-bromoaniline | 74 ul | BrC=1C=C(N)C=CC1 | C6H6BrN
product | 1-[7-(3-bromo-phenylamino)-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone | 93 mg | BrC=1C=C(C=CC1)NC=1N=CC(=C2C1N(C=C2C)C)C(=O)N2CCOCC2 | C20H21BrN4O2
